US06569849B1
A solution of methoxymethyl magnesiumchloride in dry tetrahydrofuran (prepared from methoxymethyl chloride (16.1 g, 0.2 mol), magnesium turnings (4.8 g, 0.2 mol), mercury chloride (0.25 g) and dry tetrahydrofuran (30 ml)) was cooled on an ice-salt bath to −10° C. A solution of 5-acetyl-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (21.4 g, 0.09 mol, prepared as described in Belg., 609, 095, 1962) in dry tetrahydrofuran (50 ml) was added drop-wise. When addition was complete the mixture was stirred for 1 h. Saturated ammonium chloride (150 ml) was carefully added and the mixture was extracted with diethyl ether (2×100 ml). The combined extracts were dried (MgSO4) and the solvent was evaporated in vacuo to give a residue which was fractionally distilled. The fraction collected at b.p. 130-140° C./70 Pa was purified by gradient column chromatography on silica gel (80 g) using cyclohexane and then benzene as eluents. The benzene fraction afforded 9.4 g of crude 5-(1-methoxymethylethylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene as an oil.

reactant | methoxymethyl magnesiumchloride | COC[Mg]Cl
reactant | 5-acetyl-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.09 mol, 21.4 g | C(C)(=O)C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C17H16O
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.2 mol, 30 ml, 16.1 g | O1CCCC1 | C4H8O
product | 5-(1-methoxymethylethylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 9.4 g | COCC(C)=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C19H20O
